US09382234B2
To cold (0° C. ice bath) methanol (200 mL) with stirring was added drop-wise thionyl chloride (12 mL, 164 mmol). The reaction was maintained for 15 minutes, at which time 5-chloro-3-hydroxy-2-methylbenzoic acid (6.5 g, 34.8 mmol) was added. The reaction was allowed to warm to room temperature and maintained overnight. The reaction was evaporated to dryness under vacuum and the residue was purified by silica gel chromatography (Analogix, SF40-150 g, 50 to 100% CH2Cl2 in hexanes). An overlap fraction containing a close faster running impurity was combined and repurified to give more pure product. The combined pure fractions were evaporated to dryness to give methyl 5-chloro-3-hydroxy-2-methylbenzoate (4.52 g, 22.53 mmol, 64.7% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 10.29 (s, 1H), 7.18 (d, J=2.02 Hz, 1H), 7.01 (d, J=2.27 Hz, 1H), 3.82 (s, 3H), 2.25 (s, 3H). MS(ES) [M+H]+ 201.0.

reactant | thionyl chloride | 164 mmol, 12 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-chloro-3-hydroxy-2-methylbenzoic acid | 34.8 mmol, 6.5 g | ClC=1C=C(C(=C(C(=O)O)C1)C)O | C8H7ClO3
reactant | methanol | 200 mL | CO | CH4O
product | methyl 5-chloro-3-hydroxy-2-methylbenzoate | 22.53 mmol, 4.52 g, 64.7% yield | ClC=1C=C(C(=C(C(=O)OC)C1)C)O | C9H9ClO3
